US07947675B2
Step a): 2-Chloro-3-nitro-5-trifluoromethylbenzoic acid
After dissolving at room temperature 2-chloro-5-trifluoromethylbenzoic acid (2.25 g; 10 mmol) in fuming sulfuric acid comprising 20% oleum (6 ml), fuming nitric acid (1.7 ml) is added dropwise over 30 minutes, so as to maintain the temperature of the reaction medium below 60° C. After cooling, ice is added and the precipitate is separated out, washed with water and dried. After recrystallisation from water, 2.15 g of solid corresponding to 2-chloro-3-nitro-5-trifluoromethylbenzoic acid are obtained (m.p.=173° C.).

reactant | 2-chloro-5-trifluoromethylbenzoic acid | 10 mmol, 2.25 g | ClC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 1.7 ml | [N+](=O)(O)[O-] | HNO3
product | 2-Chloro-3-nitro-5-trifluoromethylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C8H3ClF3NO4
